US08455491B2
Compound No. 26: 2-(4-fluorophenyl)-6-(hexahydropyrrolo[3,4-c]pyrrol-2-(1H)-yl)-3-(pyridazin-4-yl)-imidazo[1,2-b]pyridazine
The mixture of 1.2 g (2.4 mmol) of 6-(5-benzylhexahydropyrrolo[3,4-c]pyrrol-2-(1H)-yl)-2-(4-fluorophenyl)-3-(pyridazin-4-yl)-imidazo[1,2-b]pyridazine and 2.3 g (36 mmol) of ammonium formate in 40 ml of methanol is refluxed for 2 hours in the presence of palladium-on-charcoal (10%) containing 50% moisture.

reactant | 6-(5-benzylhexahydropyrrolo[3,4-c]pyrrol-2-(1H)-yl)-2-(4-fluorophenyl)-3-(pyridazin-4-yl)-imidazo[1,2-b]pyridazine | 2.4 mmol, 1.2 g | C(C1=CC=CC=C1)N1CC2C(C1)CN(C2)C=2C=CC=1N(N2)C(=C(N1)C1=CC=C(C=C1)F)C1=CN=NC=C1 | C29H26FN7
reactant | ammonium formate | 36 mmol, 2.3 g | C(=O)[O-].[NH4+]
solvent | methanol | 40 ml | CO | CH4O
catalyst | palladium-on-charcoal | [Pd] | Pd
product | 2-(4-fluorophenyl)-6-(hexahydropyrrolo[3,4-c]pyrrol-2-(1H)-yl)-3-(pyridazin-4-yl)-imidazo[1,2-b]pyridazine | FC1=CC=C(C=C1)C=1N=C2N(N=C(C=C2)N2CC3CNCC3C2)C1C1=CN=NC=C1 | C22H20FN7
